US04886835
The procedure is as in Example 4, starting with ethyl 6-(3,4-dihydroxyphenyl)-2-dimethylamino-5-methylthio-6-oxo-2,4-hexadienoate (1.9 g) and 1N aqueous hydrochloric acid solution (10.8 cc) in ethanol (10.8 cc). The mixture is heated to boiling for 5 minutes, and then cooled to a temperature in the region of 20° C. After purification by crystallization in isopropyl ether (100 cc), ethyl 6-(3,4-dihydroxyphenyl)-2-hydroxy-5-methylthio-6-oxo-2,4-hexadienoate (0.6 g), m.p. 156° C., is obtained.

reactant | ethyl 6-(3,4-dihydroxyphenyl)-2-dimethylamino-5-methylthio-6-oxo-2,4-hexadienoate | 1.9 g | OC=1C=C(C=CC1O)C(C(=CC=C(C(=O)OCC)N(C)C)SC)=O | C17H21NO5S
reactant | hydrochloric acid | 1N, 10.8 cc | Cl | ClH
reactant | ethanol | 10.8 cc | C(C)O | C2H6O
product | ethyl 6-(3,4-dihydroxyphenyl)-2-hydroxy-5-methylthio-6-oxo-2,4-hexadienoate | 0.6 g | OC=1C=C(C=CC1O)C(C(=CC=C(C(=O)OCC)O)SC)=O | C15H16O6S
